US05196424
To a 100 ml round bottom flask covered with aluminum foil was charged 1.50 g (5.94 mmol) of 2-pivaloyl-4-chloro-7H-pyrrolo[2,3-d]pyrimidine dissolved in 30 ml of anhydrous THF, followed by the addition of 1.47 g (6.5 mmol) of N-iodosuccinimide. The dark brown solution was stirred at RT under a nitrogen atmosphere for 1 h. The solvent was removed in vacuo, and the residue was dissolved in CHCl3, washed with water, dried over Na2SO4, and removed in vacuo. The crude residue was then flash chromatographed on silica gel eluting with a gradient of 100% CHCl3 to 2% MeOH/CHCl3. After collecting the correct fractions, the solvents were removed in vacuo to give 1.86 g (83%) of 2-pivaloyl-4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine as a

reactant | aluminum | [Al] | Al
reactant | 2-pivaloyl-4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 5.94 mmol, 1.50 g | C(C(C)(C)C)(=O)C=1N=C(C2=C(N1)NC=C2)Cl | C11H12ClN3O
reactant | N-iodosuccinimide | 6.5 mmol, 1.47 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-pivaloyl-4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine | 1.86 g, 83% | C(C(C)(C)C)(=O)C=1N=C(C2=C(N1)NC=C2I)Cl | C11H11ClIN3O
